2161-11-06 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Body temperature increasing/requiring colder water temp to maintain at
   34.7. Initiated Cisatracurium and Vanc/Zosyn/Flagyl.
   -Midazolam increased to 15mg/hr with 15mg bolus, worsening seizure
   activity on EEG.  Propofol
 5mcg/kg/hr with resolution of seizure
   activity.  On 0.1mcg/kg/min Levophed, weaned down to 0.08mcg/kg/min.
   -1 dose Vanc/Zosyn to broadly cover; then switched to Levo/Flagyl for
   ?aspiration pna on CT and possible source of occult fever
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-11-5**] 09:45 PM
   Piperacillin - [**2161-11-5**] 10:45 PM
   Metronidazole - [**2161-11-6**] 05:30 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Cisatracurium - 0.06 mg/Kg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Cisatracurium - [**2161-11-5**] 08:30 PM
   Midazolam (Versed) - [**2161-11-5**] 11:30 PM
   Famotidine (Pepcid) - [**2161-11-6**] 12:30 AM
   Propofol - [**2161-11-6**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-6**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 60 (49 - 82) bpm
   BP: 99/52(63) {80/39(23) - 152/91(109)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,409 mL
                                                                    766 mL
   PO:
             TF:
   IVF:
                                                                    909 mL
                                                                    766 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    325 mL
   Urine:
                                                                    235 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,474 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.29/38/365/17/-7
   Ve: 8.7 L/min
   PaO2 / FiO2: 730
   Physical Examination
   Gen:  Intubated, unresponsive
   HEENT: Dilated fixed pupils
   Cardiac:  RRR, nl S1/S2, no m/g/r
   Respiratory: Coarse breath sounds anteriorly
   Abdomen:  Soft, NT/ND
   Extremities:  No pedal edema
   Labs / Radiology
   320 K/uL
   14.5 g/dL
   210 mg/dL
   0.8 mg/dL
   17 mEq/L
   4.3 mEq/L
   19 mg/dL
   110 mEq/L
   141 mEq/L
   42.3 %
   18.8 K/uL
        [image002.jpg]
                            [**2161-11-5**]  01:39 PM
                            [**2161-11-5**]  03:30 PM
                            [**2161-11-5**]  11:30 PM
                            [**2161-11-6**]  04:50 AM
   WBC
   10.3
   18.8
   Hct
   39.1
   42.3
   Plt
   301
   320
   Cr
   0.9
   0.9
   0.8
   TCO2
   19
   Glucose
   238
   220
   210
   Other labs: PT / PTT / INR:24.7/27.5/2.4, ALT / AST:81/149, Alk Phos /
   T Bili:101/0.6, Differential-Neuts:87.5 %, Lymph:6.9 %, Mono:5.1 %,
   Eos:0.1 %, Lactic Acid:3.2 mmol/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.4 mg/dL
   Imaging: CT Chest [**11-5**]
   No evidence of pulmonary embolism or acute aortic pathology.Bilateral
   lung
   changes secondary to atelectasis/aspiration.Moderate cardiomegaly with
   enlarged pulmonary arteries.
   CXR [**11-5**]
   1. The endotracheal and nasogastric tubes in standard position.
   2. Left upper lobe and left basilar opacities, possibly due to
   atelectasis or
   aspiration.
   3. Prominent right pulmonary artery, could be related to chronic
   pulmonary
   hypertension.
   CT Head [**11-5**]:
   Wet read negative for acute process
   Microbiology: [**11-5**]  BCx pnd
   [**11-5**]  UCx pnd
   Assessment and Plan
 63-year-old woman with history of atrial fibrillation/flutter
   presented after v-fib arrest.
   .
   # Cardiac arrest: unclear precipitant for initial v-fib. Might have
   been atrial arrhythmias degenerating into v-fib, or a pulmonary process
   (aspiration; no evidence of PE) leading to cardiac arrest. No evidence
   of ischemia. Now intubated. Rhythm now in sinus.  CT head negative for
   acute process.  EEG showed seizure activity/burst suppression pattern
   requiring propofol to suppress.
   - Artic Sun protocol; re-warm beginning this morning
   - Continue ventilatory support; f/u ABG this morning
   - 48h continuous EEG; f/u Neuro recs
   - HOB > 30
   - f/u chest CTA final read
   .
   # ?Aspiration PNA vs. Pneumonitis:  CT chest showed LUL and LLL
   findings consistent with atelectasis vs. PNA, also with leukocytosis
   and unable to be maintained at 34C yesterday without continual decrease
   of water temp for arctic sun.  Received one dose of Vanc/Zosyn, then
   switched to Levo/Flagyl to cover for aspiration PNA.
   - Continue Levo/Flagyl, consider broadening coverage if no improvement
   - Trend leukocytosis
   - f/u Sputum cx, Bcx
   - f/u final read Chest CT
   .
   # CORONARIES: no evidence of ischemia on ECG. Elevated trop and CK most
   likely from cardiac arrest and CPR. S/p RCA DES in [**2161-7-22**].  TTE this
   morning did not show inferior wall hypokinesis, unlikely ischemic event
   which triggered V fib arrest.
   - f/u TTE final read
   - Continue ASA, clopidogrel
   .
   # PUMP: BP stable with SBP in 100s-120s on minimal Levophed. EF >55% in
   [**2161-7-22**].  Does not appear volume overloaded, though difficult to
   assess.
   - f/u TTE results
   - Wean Levophed
   .
   # RHYTHM: h/o afib, now in sinus. Was initially in V fib then asystole,
   unclear precipitant.  Has been intermittently in a fib/flutter based on
   telemetry overnight.
   - Continue warfarin
   - Monitor on telemetry
   .
   # Hypothyroidism:   Continue levothyroxine
   .
   FEN: NPO
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx: therapeutic INR
   CODE: Presumed full
   COMM: will have family meeting
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-11-5**] 04:02 PM
   20 Gauge - [**2161-11-5**] 04:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   [**2161-11-6**]  3 PM
   CCU ATTENDING DAILY PROGRESS NOTE
   I have reviewed the comprehensive daily progress note by Dr. [**First Name (STitle) **] today
   and I agree with the history, physical examination, assessment and
   plan.  I was present during the physical examination and concur with
   its findings.
   Addendum to the History:  Per Dr. [**First Name (STitle) **]
s note.  She remains
   unresponsive.
   Addendum to Physical Examination:  Per Dr. [**First Name (STitle) **]
s Note.
   Medical Decision Making.  Mrs. [**Known lastname 8754**] is 53 year old woman with a
   prior AFib with RVR (simulating ventricular tachycardia) in [**2161-7-22**]
   which was treated with a CYPHER DES.   She also had a large ASD with
   significant left to right shunt.   She underwent as is an atrial
   flutter ablation but was pending for a atrial fibrillation ablation
   after 3-6 months of dual antiplatelet therapy for her DES.    She had a
   witnessed cardiac arrest yesterday with ultimately responded to CPR
   although there was question of cerebral anoxia.   Her EKG showed stable
   changes without evidence of stent thrombosis.
   She was cooled for > 18 hours and has not been rewarmed without return
   of cerebral function to date.  She is off pressors and hemodynamically
   stable. We will continue supportive care for her cerebral injury.
   The total time for this visit was 40 minutes and over 50% of the time
   was spent coordinating care.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD  [**Pager number 8663**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2161-11-6**] 15:33 ------

2161-11-07 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2161-11-6**] 06:37 PM
   Neuro adjusted anti-epileptic regimen.
   CT final read:
   1. No acute pulmonary embolism or acute thoracic aortic pathology
   detected.
   2. Scattered pulmonary opacities in the dependent portion of both
   lungs,
   probably related to aspiration or atelectasis.
   3. Bilateral multiple rib fractures, without evidence of pneumothorax,
   possibly related to recent resuscitation.
   4. Dilatation of the main,right and left pulmonary arteries suggests
   pulmonary arterial hypertension.
   ECHO: The left atrium is normal in size. The right atrium is moderately
   dilated. A large secundum atrial septal defect is present. There is
   mild symmetric left ventricular hypertrophy. The left ventricular
   cavity is unusually small. Due to suboptimal technical quality, a focal
   wall motion abnormality cannot be fully excluded. Left ventricular
   systolic function is hyperdynamic (EF>75%). Tissue Doppler imaging
   suggests a normal left ventricular filling pressure (PCWP<12mmHg). The
   right ventricular cavity is dilated with borderline normal free wall
   function. There is abnormal septal motion/position consistent with
   right ventricular pressure/volume overload. The aortic valve leaflets
   (3) appear structurally normal with good leaflet excursion and no
   aortic regurgitation. The mitral valve leaflets are structurally
   normal. Mild (1+) mitral regurgitation is seen. There is at least mild
   pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   Compared with the prior study (images reviewed) of [**2161-8-13**], estimated
   pulmonary artery pressure is now lower but may be underestimated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-11-5**] 09:45 PM
   Piperacillin - [**2161-11-5**] 10:45 PM
   Levofloxacin - [**2161-11-6**] 09:30 AM
   Metronidazole - [**2161-11-7**] 06:01 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2161-11-6**] 05:30 PM
   Famotidine (Pepcid) - [**2161-11-7**] 01:03 AM
   Fosphenytoin - [**2161-11-7**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-7**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 81 (44 - 90) bpm
   BP: 109/59(75) {88/47(58) - 140/71(94)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: JR (Junctional Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,012 mL
                                                                    404 mL
   PO:
             TF:
   IVF:
                                                                  1,962 mL
                                                                    344 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                    175 mL
   Urine:
                                                                  1,185 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    827 mL
                                                                    229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.38/32/128/19/-4
   Ve: 8 L/min
   PaO2 / FiO2: 256
   Physical Examination
   GEN; NAD, intubated.
   CV: RRR, no m/r/g
   PULM: rales b/l anteriorly, ventilator auscultated
   ABD: +BS, soft, nt, nd
   EXTR: 2+ DP left, 1+ DP right, no pedal edema
   DERM: petechial erythematous/purple rash on back, near scapulae,
   approximately 12cm x 8cm
   Labs / Radiology
   257 K/uL
   11.6 g/dL
   129 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.3 mEq/L
   18 mg/dL
   110 mEq/L
   139 mEq/L
   34.3 %
   13.0 K/uL
        [image002.jpg]
                            [**2161-11-5**]  01:39 PM
                            [**2161-11-5**]  03:30 PM
                            [**2161-11-5**]  11:30 PM
                            [**2161-11-6**]  04:50 AM
                            [**2161-11-6**]  07:56 AM
                            [**2161-11-6**]  03:12 PM
                            [**2161-11-6**]  06:43 PM
                            [**2161-11-7**]  05:38 AM
                            [**2161-11-7**]  05:55 AM
   WBC
   10.3
   18.8
   13.0
   Hct
   39.1
   42.3
   34.3
   Plt
   [**Telephone/Fax (3) 8765**]
   Cr
   0.9
   0.9
   0.8
   0.9
   0.8
   TCO2
   19
   18
   20
   20
   Glucose
   238
   220
   210
   106
   129
   Other labs: PT / PTT / INR:77.6/40.3/9.2, ALT / AST:66/162, Alk Phos /
   T Bili:80/0.4, Differential-Neuts:87.5 %, Lymph:6.9 %, Mono:5.1 %,
   Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:3.3 g/dL, LDH:557 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Micro: urine culture
 no growth; all blood cultures pending
   Assessment and Plan
   63-year-old woman with history of atrial fibrillation/flutter presented
   after v-fib arrest.
   .
   # Cardiac arrest: unclear precipitant for initial v-fib. Might have
   been atrial arrhythmias degenerating into v-fib, or a pulmonary process
   (aspiration; no evidence of PE) leading to cardiac arrest. No evidence
   of ischemia. Now intubated. Rhythm now in sinus.  CT head negative for
   acute process.  s/p arctic sun protocol.
   - continue amiodarone 400mg po bid
   - continue ventilatory support
   - telemetry
   .
   # Seizure: EEG showed seizure activity/burst suppression pattern
   requiring propofol and fosphenytoin to suppress. Per neuro, in status
   epilepticus this morning.
   - Continuous EEG
   - f/u Neuro recs
   - increase propofol until EEG pattern changes to less bursts
   - forphenytoin loaded, then daily doses
   .
   # ?Aspiration PNA vs. Pneumonitis:  CT chest showed LUL and LLL
   findings consistent with atelectasis vs. PNA, also with leukocytosis
   (although downtrending again today). Received one dose of Vanc/Zosyn,
   then switched to Levo/Flagyl to cover for aspiration PNA. Febrile to
   101.7 this morning during rounds.
   - Stat CXR
   - Tylenol
   - Re-cool with arctic sun, per neuro, because of fever
   - Restart vancomycin, to cover for MRSA (hospitalization and
   group/nursing home history)
   - Continue levofloxacin
   - Discontinue flagyl
   - Start clindamycin
   - Trend leukocytosis, fever curve
   - Send new sputum cultures and blood cultures; f/u all pending cultures
   .
   # Coagulopathy
 PT/INR/PTT repeated and elevation confirmed. Perhaps
   due to DIC, or because of coumadin (home med) interacting with the
   antiepileptics to become supratherapeutic. However, elevated PTT (not
   on heparin) might argue more towards a DIC picture moreso than just
   coumadin
s effect. Patient with gastroccult postitive, coffee-grounds
   colored, OG tube findings. Patient also with 8-point Hct drop (but only
   3 points down from admission Hct)
 reconfirmed with 2^nd set of AM
   labs.
   - Give 10mg IV vitamin K now to reverse coagulopathy
   - 1pm Hct, PT, PTT, INR
   - [**Hospital1 **] PPI IV for GIbleed concern
   - Follow petechial rash on back, as concern for bleed site (marked in
   black marker the outline)
   - F/u haptoglobin, fibrin degredation products, fibrinogen, D-dimer
   .`
   # CORONARIES: no evidence of ischemia on ECG. Elevated trop and CK most
   likely from cardiac arrest and CPR. S/p RCA DES in [**2161-7-22**].  TTE this
   morning did not show inferior wall hypokinesis, unlikely ischemic event
   which triggered V fib arrest.
   - Continue ASA (if bleeds more and Hct drops, could change 325mg to
   81mg), clopidogrel
   .
   # PUMP: BP stable with SBP in 90s to 140s; no longer on Levophed (off
   since the 16^th). EF >55% in [**2161-7-22**].  Does not appear volume
   overloaded, though difficult to assess.
   .
   # RHYTHM: h/o afib, now in sinus. Was initially in V fib then asystole,
   unclear precipitant.  Has been intermittently in a fib/flutter based on
   telemetry overnight. Given the elevated PT/INR, hold coumadin today.
   - Monitor on telemetry
   .
   # Rash: dependent rash on upper back, ?dependent hematoma [**2-23**] rib
   fracture ? petechial
   -recheck Hct @ 1pm, d/t 8 point Hct drop (but only 3 points down since
   admission Hct)
   -monitor clinically
   .
   # Hypothyroidism:
   - f/u TSH
   - continue levothyroxine
   .
   FEN: NPO
   PROPHYLAXIS:
   -DVT ppx: supratherapeutic INR
   -VAP ppx: famotidine, IV bid ppi, elevate HOB
   CODE: Full code
   DISPO: CCU for now
   ICU Care
   Lines:
   18 Gauge - [**2161-11-5**] 04:02 PM
   20 Gauge - [**2161-11-6**] 02:29 PM
   Arterial Line - [**2161-11-6**] 06:37 PM
   ------ Protected Section ------
   Patient started on [**Hospital1 **] PPI, so d/c famotidine (H2blocker).
   ------ Protected Section Addendum Entered By:[**Name (NI) 1026**] [**Last Name (NamePattern1) **], MD
   on:[**2161-11-7**] 15:59 ------

2161-11-08 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   n/a
   24 Hour Events:
 MULTI LUMEN - START [**2161-11-7**] 10:48 PM (RIJ)
 FEVER - 101.7
F - [**2161-11-7**] 09:10 AM
   (following fever, per neuro, patient was re-cooled to maintenance at
   37
   Per neuro: d/c lamictal; load with depakote (valpoic acid) at 20mg/kg
   x1 and then 6 hours later start depakote at 10 mg/kg q6h. Check
   depakote and dilantin levels tomorrow AM. (Neuro note in chart and
   OMR).
   Required 1mg IV ativan and increased propofol from 20 to 30 at around
   9pm for increased seizure activity seen on EEG - resolved back to prior
   pattern.
   Patient with hypotension that responded to decreasing propofol dose.
   Central line placed so could use pressors if needed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2161-11-5**] 10:45 PM
   Metronidazole - [**2161-11-7**] 06:01 AM
   Levofloxacin - [**2161-11-7**] 08:46 AM
   Clindamycin - [**2161-11-8**] 01:39 AM
   Vancomycin - [**2161-11-8**] 06:28 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-11-7**] 06:36 PM
   Lorazepam (Ativan) - [**2161-11-7**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-8**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 61 (46 - 84) bpm
   BP: 102/58(72) {88/48(61) - 142/73(96)} mmHg
   RR: 16 (11 - 40) insp/min
   SpO2: 100%
   Heart rhythm: JR (Junctional Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,302 mL
                                                                    779 mL
   PO:
             TF:
   IVF:
                                                                  2,242 mL
                                                                    779 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    460 mL
   Urine:
                                                                    685 mL
                                                                    260 mL
   NG:
                                                                    360 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,257 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 34 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/31/126/20/-2
   Ve: 8.1 L/min
   PaO2 / FiO2: 252
   Physical Examination
   GEN: NAD, intubated
   NEURO: pupils non-reactive per team
   CV: RRR, no m/r/g; right IJ in place on right neck
   PULM: ventilator sounds so difficult to auscultate
   ABD: soft, nt, nd, obese
   EXTR: no edema, obese
   SKIN: arctic sun pads in place; petechial rash on left scapula is
   relatively unchanged and unenlarged since yesterday.
   Labs / Radiology
   234 K/uL
   11.0 g/dL
   115 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.5 mEq/L
   14 mg/dL
   109 mEq/L
   138 mEq/L
   32.6 %
   10.8 K/uL
        [image002.jpg]
                            [**2161-11-6**]  04:50 AM
                            [**2161-11-6**]  07:56 AM
                            [**2161-11-6**]  03:12 PM
                            [**2161-11-6**]  06:43 PM
                            [**2161-11-7**]  05:38 AM
                            [**2161-11-7**]  05:55 AM
                            [**2161-11-7**]  08:22 AM
                            [**2161-11-7**]  03:36 PM
                            [**2161-11-8**]  05:47 AM
                            [**2161-11-8**]  06:01 AM
   WBC
   18.8
   13.0
   10.8
   Hct
   42.3
   34.3
   33.4
   32.9
   32.6
   Plt
   [**Telephone/Fax (3) 8777**]
   Cr
   0.8
   0.9
   0.8
   0.7
   TCO2
   18
   20
   20
   21
   Glucose
   [**Telephone/Fax (3) 8778**]15
   Other labs: PT / PTT / INR:17.3/150.0/1.5, ALT / AST:53/166, Alk Phos /
   T Bili:67/0.6, Differential-Neuts:87.5 %, Lymph:6.9 %, Mono:5.1 %,
   Eos:0.1 %, D-dimer:469 ng/mL, Fibrinogen:526 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:3.3 g/dL, LDH:614 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   63-year-old woman with history of atrial fibrillation/flutter presented
   after v-fib arrest.
   .
   # Cardiac arrest: unclear precipitant for initial v-fib. Might have
   been atrial arrhythmias degenerating into v-fib, or a pulmonary process
   (aspiration; no evidence of PE) leading to cardiac arrest. No evidence
   of ischemia. Now intubated. Patient now in junctional rhythm.  s/p
   arctic sun protocol.
   - continue amiodarone 400mg po bid
   - continue ventilatory support
   - telemetry
   .
   # Seizure: Patient with seizure activity on EEG
 being monitored by
   neuro as part of cardiac arrest cooling protocol. CT head negative for
   acute process.
   - ask neuro about potential repeat head CT today given patient
   bradycardia, fixed pupils, and concern for herniation
   - ask neuro about prognosis, and plan for Monday family meeting
   (confirm this with neuro)
   - f/u neuro recs
   - continuous EEG
   - continue fosphenytoin, depakote, propofol, dilantin (d/c
d lamictal
   yesterday per neuro)
   .
   # ?Aspiration PNA vs. Pneumonitis:  CT chest showed LUL and LLL
   findings consistent with atelectasis vs. PNA, also with leukocytosis
   (downtrending again today) and was febrile yesterday. On vancomycin,
   levaquin, clindamycin regimen.
   - Continue vancomycin, levofloxacin, clindamycin
   - Trend leukocytosis, fever curve
   - F/u pending cultures/micro
   .
   # Coagulopathy
 PT, PTT, INR no longer elevated; yesterday received
   10mg IV vitamin K to reverse coagulopathy. DIC labs negative. Now INR
   below therapeutic range, so patient on heparin gtt (for afib history).
   Hct stable. Still with GIbleed concern d/t gastroccult positive OG tube
   secretions. Petechial rash stable.
   - 5pm Hct, PT, PTT, INR
   - Cont. [**Hospital1 **] PPI IV
   - Follow petechial rash on back, as concern for bleed site (marked in
   black marker the outline)
   .`
   # CORONARIES: no evidence of ischemia on ECG. Elevated trop and CK most
   likely from cardiac arrest and CPR. S/p RCA DES in [**2161-7-22**].  TTE this
   morning did not show inferior wall hypokinesis, unlikely ischemic event
   which triggered V fib arrest.
   - Continue ASA (if bleeds more and Hct drops, could change 325mg to
   81mg), clopidogrel.
   .
   # PUMP: BP stable with SBP in 90s to 140s; no longer on Levophed (off
   since the [**11-6**]). EF >55% in [**2161-7-22**].  Does not appear volume
   overloaded, though difficult to assess. Now has central access in case
   patient needs pressors, especially since on propofol the patient
s BP
   has been running lower.
   .
   # RHYTHM: h/o afib, was initially in V fib then asystole, unclear
   precipitant. s/p arctic sun cooling protocol. Now in junctional rhythm
   in 40s/50s on telemetry this morning.
   - on heparin gtt for h/o afib as INR infratherapeutic today
   - monitor on telemetry
   .
   # Rash: dependent rash on upper back, ?dependent hematoma [**2-23**] rib
   fracture ? petechial, d/t chest compressions trauma
   - 5pm Hct
   - monitor clinically
   .
   # Hypothyroidism:
   - continue levothyroxine at home dose; do not change dose even with low
   lab TSH, given stressed state currently
   .
   FEN: NPO; starting D5-1/2NS at 75cc/hour x1L
   Lines:
   Arterial Line - [**2161-11-6**] 06:37 PM
   20 Gauge - [**2161-11-7**] 05:26 PM
   Multi Lumen - [**2161-11-7**] 10:48 PM
   PROPHYLAXIS:
   -DVT ppx: heparin gtt (holding home coumadin in setting of
   antiepileptics, fluoroquinolones, post-vitamin K administration on
   [**11-7**], and previously significantly supratherapeutic INR).
   -VAP ppx: IV bid PPI, elevate HOB
   CODE: Full code
   DISPO: CCU for now

2161-11-09 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: V-fib arrest
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2161-11-8**] 09:00 PM
   - Increased dilantin, decreased depakote per Neuro
   - Neuro recommended MRI head as pt cannot be weaned from Propofol - if
   MRI shows abnormality, can inform family at family meeting tomorrow 3pm
   and discuss code status
   -Bloody NGT drainage with supratherapeutic PTT - PM Hct 30.8 <- 32 this
   AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2161-11-7**] 06:01 AM
   Levofloxacin - [**2161-11-8**] 08:22 AM
   Clindamycin - [**2161-11-9**] 02:00 AM
   Vancomycin - [**2161-11-9**] 06:00 AM
   Infusions:
   Heparin Sodium - 800 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-11-8**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-9**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 60 (45 - 74) bpm
   BP: 124/67(86) {92/45(60) - 157/71(97)} mmHg
   RR: 17 (0 - 29) insp/min
   SpO2: 100%
   Heart rhythm: JR (Junctional Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,934 mL
                                                                    586 mL
   PO:
             TF:
   IVF:
                                                                  2,934 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                    445 mL
   Urine:
                                                                  1,420 mL
                                                                    355 mL
   NG:
                                                                    400 mL
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                  1,114 mL
                                                                    141 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/26/150/25/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 300
   Physical Examination
   GEN: NAD, intubated
   NEURO: pupils non-reactive per team
   CV: RRR, no m/r/g; right IJ in place on right neck
   PULM: ventilator sounds so difficult to auscultate
   ABD: soft, nt, nd, obese
   EXTR: no edema, obese
   SKIN: arctic sun pads in place; petechial rash on left scapula is
   relatively unchanged and unenlarged since yesterday.
   Labs / Radiology
   212 K/uL
   10.6 g/dL
   138 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.1 mEq/L
   15 mg/dL
   110 mEq/L
   139 mEq/L
   30.0 %
   10.5 K/uL
        [image002.jpg]
                            [**2161-11-6**]  06:43 PM
                            [**2161-11-7**]  05:38 AM
                            [**2161-11-7**]  05:55 AM
                            [**2161-11-7**]  08:22 AM
                            [**2161-11-7**]  03:36 PM
                            [**2161-11-8**]  05:47 AM
                            [**2161-11-8**]  06:01 AM
                            [**2161-11-8**]  08:12 PM
                            [**2161-11-9**]  04:23 AM
                            [**2161-11-9**]  05:48 AM
   WBC
   13.0
   10.8
   10.5
   Hct
   34.3
   33.4
   32.9
   32.6
   30.8
   30.0
   Plt
   257
   234
   212
   Cr
   0.8
   0.7
   0.6
   TCO2
   20
   20
   21
   21
   Glucose
   129
   115
   138
   Other labs: PT / PTT / INR:18.5/78.5/1.7, ALT / AST:53/166, Alk Phos /
   T Bili:67/0.6, Differential-Neuts:87.5 %, Lymph:6.9 %, Mono:5.1 %,
   Eos:0.1 %, D-dimer:469 ng/mL, Fibrinogen:526 mg/dL, Lactic Acid:1.6
   mmol/L, Albumin:3.3 g/dL, LDH:614 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   63-year-old woman with history of atrial fibrillation/flutter presented
   after v-fib arrest.
   .
   # Cardiac arrest: unclear precipitant for initial v-fib. Might have
   been atrial arrhythmias degenerating into v-fib, or a pulmonary process
   (aspiration; no evidence of PE) leading to cardiac arrest. No evidence
   of ischemia. Now intubated. Patient now in junctional rhythm.  s/p
   arctic sun protocol.
   - continue amiodarone 400mg po bid
   - continue ventilatory support
   - telemetry
   .
   # Seizure: Patient with seizure activity on EEG
 being monitored by
   neuro as part of cardiac arrest cooling protocol. CT head negative for
   acute process.
   - ask neuro about potential repeat head CT today given patient
   bradycardia, fixed pupils, and concern for herniation
   - ask neuro about prognosis, and plan for Monday family meeting
   (confirm this with neuro)
   - f/u neuro recs
   - continuous EEG
   - continue fosphenytoin, depakote, propofol, dilantin (d/c
d lamictal
   yesterday per neuro)
   .
   # ?Aspiration PNA vs. Pneumonitis:  CT chest showed LUL and LLL
   findings consistent with atelectasis vs. PNA, also with leukocytosis
   (downtrending again today) and was febrile yesterday. On vancomycin,
   levaquin, clindamycin regimen.
   - Continue vancomycin, levofloxacin, clindamycin
   - Trend leukocytosis, fever curve
   - F/u pending cultures/micro
   .
   # Coagulopathy
 PT, PTT, INR no longer elevated; yesterday received
   10mg IV vitamin K to reverse coagulopathy. DIC labs negative. Now INR
   below therapeutic range, so patient on heparin gtt (for afib history).
   Hct stable. Still with GIbleed concern d/t gastroccult positive OG tube
   secretions. Petechial rash stable.
   - 5pm Hct, PT, PTT, INR
   - Cont. [**Hospital1 **] PPI IV
   - Follow petechial rash on back, as concern for bleed site (marked in
   black marker the outline)
   .`
   # CORONARIES: no evidence of ischemia on ECG. Elevated trop and CK most
   likely from cardiac arrest and CPR. S/p RCA DES in [**2161-7-22**].  TTE this
   morning did not show inferior wall hypokinesis, unlikely ischemic event
   which triggered V fib arrest.
   - Continue ASA (if bleeds more and Hct drops, could change 325mg to
   81mg), clopidogrel.
   .
   # PUMP: BP stable with SBP in 90s to 140s; no longer on Levophed (off
   since the [**11-6**]). EF >55% in [**2161-7-22**].  Does not appear volume
   overloaded, though difficult to assess. Now has central access in case
   patient needs pressors, especially since on propofol the patient
s BP
   has been running lower.
   .
   # RHYTHM: h/o afib, was initially in V fib then asystole, unclear
   precipitant. s/p arctic sun cooling protocol. Now in junctional rhythm
   in 40s/50s on telemetry this morning.
   - on heparin gtt for h/o afib as INR infratherapeutic today
   - monitor on telemetry
   .
   # Rash: dependent rash on upper back, ?dependent hematoma [**2-23**] rib
   fracture ? petechial, d/t chest compressions trauma
   - 5pm Hct
   - monitor clinically
   .
   # Hypothyroidism:
   - continue levothyroxine at home dose; do not change dose even with low
   lab TSH, given stressed state currently
   .
   FEN: NPO; starting D5-1/2NS at 75cc/hour x1L
   Lines:
   Arterial Line - [**2161-11-6**] 06:37 PM
   20 Gauge - [**2161-11-7**] 05:26 PM
   Multi Lumen - [**2161-11-7**] 10:48 PM
   PROPHYLAXIS:
   -DVT ppx: heparin gtt (holding home coumadin in setting of
   antiepileptics, fluoroquinolones, post-vitamin K administration on
   [**11-7**], and previously significantly supratherapeutic INR).
   -VAP ppx: IV bid PPI, elevate HOB
   CODE: Full code
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-11-6**] 06:37 PM
   20 Gauge - [**2161-11-7**] 05:26 PM
   Multi Lumen - [**2161-11-7**] 10:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-11-10 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   MRI: IMPRESSION: Diffuse cerebral anoxic injury. No intracranial
   hemorrhage.
   Weaned off of propofol and still with epileptiform activity but no
   longer status epilepticus.
   Not on pressors.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2161-11-9**] 09:00 AM
   Clindamycin - [**2161-11-10**] 02:30 AM
   Vancomycin - [**2161-11-10**] 06:00 AM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-11-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-10**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 62 (45 - 85) bpm
   BP: 146/60(89) {87/46(58) - 147/67(91)} mmHg
   RR: 26 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: JR (Junctional Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,918 mL
                                                                    510 mL
   PO:
             TF:
   IVF:
                                                                  1,858 mL
                                                                    510 mL
   Blood products:
   Total out:
                                                                  1,347 mL
                                                                    245 mL
   Urine:
                                                                  1,147 mL
                                                                    225 mL
   NG:
                                                                    200 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    571 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 393 (341 - 481) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 21 cmH2O
   Plateau: 0 cmH2O
   Compliance: -68.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/32/116/24/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 290
   Physical Examination
   GEN: NAD, intubated
   CV: RRR, no m/r/g
   PULM: CTAB, but ventilator noises auscultated
   ABD: hypobowel sounds, soft, nd, obese
   EXTR: 2+ DP pulses
   SKIN: petechial rash on back unchanged; small bruises of scattered foci
   on LE
s b/l (ie: left knee)
   NEURO: mildly reactive pupils b/l (R>L)
   Labs / Radiology
   236 K/uL
   10.4 g/dL
   124 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.4 mEq/L
   18 mg/dL
   108 mEq/L
   139 mEq/L
   29.4 %
   11.4 K/uL
        [image002.jpg]
                            [**2161-11-8**]  06:01 AM
                            [**2161-11-8**]  08:12 PM
                            [**2161-11-9**]  04:23 AM
                            [**2161-11-9**]  05:48 AM
                            [**2161-11-9**]  12:09 PM
                            [**2161-11-9**]  05:07 PM
                            [**2161-11-10**]  12:20 AM
                            [**2161-11-10**]  12:24 AM
                            [**2161-11-10**]  04:55 AM
                            [**2161-11-10**]  04:57 AM
   WBC
   10.5
   11.4
   Hct
   30.8
   30.0
   31.2
   29.4
   Plt
   212
   236
   Cr
   0.6
   0.6
   TCO2
   21
   21
   23
   22
   23
   23
   Glucose
   138
   124
   Other labs: PT / PTT / INR:18.5/65.8/1.7, ALT / AST:46/127, Alk Phos /
   T Bili:64/0.3, Differential-Neuts:87.5 %, Lymph:6.9 %, Mono:5.1 %,
   Eos:0.1 %, D-dimer:469 ng/mL, Fibrinogen:526 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:3.3 g/dL, LDH:614 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.0 mg/dL
   No new micro data.
   Assessment and Plan
   53-year-old woman with history of atrial fibrillation/flutter presented
   after v-fib arrest.
   .
   # Cardiac arrest: unclear precipitant for initial v-fib. Might have
   been atrial arrhythmias degenerating into v-fib, or a pulmonary process
   (aspiration; no evidence of PE) leading to cardiac arrest. No evidence
   of ischemia. Now intubated. Patient now in junctional rhythm (telemetry
   [**Location (un) 103**] as 110, true rate is half of that, ~55).  s/p arctic sun
   protocol.
   - continue amiodarone 400mg po bid
   - continue ventilatory support
   - telemetry
   .
   # Seizure: Patient with seizure activity on EEG
 being monitored by
   neuro as part of cardiac arrest cooling protocol. CT head negative for
   acute process.  Guarded but unclear prognosis at this time.  MRI -
   Diffuse cerebral anoxic injury. No longer in status epilepticus.
   - ask neuro about prognosis
   - f/u neuro recs
   - continuous EEG
   - continue fosphenytoin, depakote, dilantin (propofol weaned off thus
   far; restart per neuro as needed)
   .
   # ?Aspiration PNA vs. Pneumonitis:  CT chest showed LUL and LLL
   findings consistent with atelectasis vs. PNA, also with leukocytosis
   (downtrending again today) and was febrile yesterday. On vancomycin,
   levaquin, clindamycin regimen.
   - Continue vancomycin, levofloxacin, clindamycin
   - Trend leukocytosis, fever curve
   - CIS
   - f/u pending cultures/micro
   .
   # Coagulopathy
 PT, PTT, INR no longer elevated following vit K
   administration. DIC labs negative. Now INR below therapeutic range, so
   patient on heparin gtt (for afib history). Hct stable. Still with GI
   bleed concern d/t gastroccult positive OG tube secretions. Petechial
   rash on back, stable.
   - Follow Hct, will call GI if Hct unstable
   - Cont. [**Hospital1 **] PPI IV
   - Follow petechial rash on back and bruising on LE
s, as concern for
   bleed site (marked in black marker the outline)
   .`
   # CORONARIES: no evidence of ischemia on ECG. Elevated trop and CK most
   likely from cardiac arrest and CPR. S/p RCA DES in [**2161-7-22**].  TTE this
   morning did not show inferior wall hypokinesis, unlikely ischemic event
   which triggered V fib arrest.
   - Continue ASA (if bleeds more and Hct drops, could change 325mg to
   81mg), clopidogrel.  Currently pt not absorbing meds, may need to
   switch to PR ASA today.
   .
   # PUMP: BP stable with SBP in 90s to 140s; no longer on Levophed (off
   since the [**11-6**]). EF >55% in [**2161-7-22**].  Does not appear volume
   overloaded, though difficult to assess. Now has central access in case
   patient needs pressors, especially since on propofol (now d/c
d) the
   patient
s BP has been running lower. Currently off of pressors.
   -40 IV lasix now
   - Goal 1L negative today
   .
   # RHYTHM: h/o afib, was initially in V fib then asystole, unclear
   precipitant. s/p arctic sun cooling protocol. Now in slow junctional
   rhythm in 40s/50s on telemetry (but [**First Name9 (NamePattern2) 6645**] [**Location (un) 103**] as 110
s) this
   morning.
   - on heparin gtt for h/o afib as INR infratherapeutic today (1.7)
   coumadin being held for now given bleed/bruise concerns (and prior INR
   of 9 in the setting of antibiotics and antiepileptics), prefer the
   closer titration of the heparin gtt
   - monitor on telemetry
   .
   # Anemia: stable, concern for UGI bleed given coffee ground aspirate
   from OG tube, however minimal output at this time.
   -follow crit
   -proton pump inhibitor [**Hospital1 **] IV
   .
   # Rash: dependent rash on upper back, ?dependent hematoma [**2-23**] rib
   fracture ? petechial, d/t chest compressions trauma
 stable today
   again
   - monitor clinically
   .
   # Hypothyroidism:
   - continue levothyroxine at home dose; do not change dose even with low
   lab TSH, given stressed state currently
   ICU Care
   Nutrition: start tube feeds today
 nutrition f/u consult
   Glycemic Control:  Insulin SS
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: IV bid PPI
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: with family
   Code status: Full code
   Disposition: CCU for now
   ICU Care
   Lines:
   20 Gauge - [**2161-11-6**] 02:29 PM
   Arterial Line - [**2161-11-6**] 06:37 PM
   Multi Lumen - [**2161-11-7**] 10:48 PM
   OG tube

2161-11-11 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   None.
   24 Hour Events:
   Had episode of O2Sat down to 80s and BP to 180s o/n, resolve quickly
   s/p patient coughing
 believed likely to be mucus plus as vitals
   quickly recovered.
   Hypertensive to 150s during most of the night.
   Vancomycin redosed (increased) based on level at lower limit of
   therapeutic.
   Had period of lengthening PR interval on telemetry o/n, and then pause,
   before back into rhythm with stable but elongated PR interval. Appears
   to be a type I second degree block. Hemodynamically stable during this
   time. On telemetry, in junctional rhythm again now.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2161-11-10**] 09:00 AM
   Clindamycin - [**2161-11-11**] 03:00 AM
   Vancomycin - [**2161-11-11**] 06:00 AM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-11-10**] 08:00 AM
   Furosemide (Lasix) - [**2161-11-10**] 10:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-11**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 81 (48 - 86) bpm
   BP: 169/74(100) {118/51(73) - 169/74(100)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: JR (Junctional Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,761 mL
                                                                    704 mL
   PO:
             TF:
                                                                     20 mL
                                                                    147 mL
   IVF:
                                                                  1,741 mL
                                                                    557 mL
   Blood products:
   Total out:
                                                                  2,612 mL
                                                                    550 mL
   Urine:
                                                                  2,482 mL
                                                                    550 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                   -851 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 480) mL
   Vt (Spontaneous): 290 (290 - 578) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.49/36/90.[**Numeric Identifier 433**]/26/4
   Ve: 7.6 L/min
   PaO2 / FiO2: 225
   Physical Examination
   GEN; NAD, intubated, no longer with EEG leads on head, obese
   CV: RRR, no m/r/g
   PULM: CTAB, ventilated
   ABD: soft, nt, nd
   EXTR: edema of hands (L>R), but not feet
   Labs / Radiology
   277 K/uL
   11.1 g/dL
   130 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.6 mEq/L
   19 mg/dL
   108 mEq/L
   145 mEq/L
   31.7 %
   12.4 K/uL
        [image002.jpg]
                            [**2161-11-10**]  12:20 AM
                            [**2161-11-10**]  12:24 AM
                            [**2161-11-10**]  04:55 AM
                            [**2161-11-10**]  04:57 AM
                            [**2161-11-10**]  06:41 PM
                            [**2161-11-10**]  10:21 PM
                            [**2161-11-10**]  11:56 PM
                            [**2161-11-11**]  03:46 AM
                            [**2161-11-11**]  05:37 AM
                            [**2161-11-11**]  06:15 AM
   WBC
   11.4
   12.4
   Hct
   31.2
   29.4
   31.7
   Plt
   236
   277
   Cr
   0.6
   0.6
   TCO2
   23
   23
   26
   27
   30
   28
   28
   Glucose
   124
   130
   Other labs: PT / PTT / INR:20.1/57.4/1.8, ALT / AST:46/127, Alk Phos /
   T Bili:64/0.3, Differential-Neuts:87.5 %, Lymph:6.9 %, Mono:5.1 %,
   Eos:0.1 %, D-dimer:469 ng/mL, Fibrinogen:526 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:3.3 g/dL, LDH:614 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   53-year-old woman with history of atrial fibrillation/flutter presented
   after v-fib arrest.
   .
   # Cardiac arrest: unclear precipitant for initial v-fib. Might have
   been atrial arrhythmias degenerating into v-fib, or a pulmonary process
   (aspiration; no evidence of PE) leading to cardiac arrest. No evidence
   of ischemia. Now intubated. Patient now in junctional rhythm (telemetry
   [**Location (un) 103**] as 110, true rate is half of that, ~55).  s/p arctic sun
   protocol.
   - continue amiodarone 400mg po bid
   - continue ventilatory support
   - telemetry
   .
   # Seizure: Patient with seizure activity on EEG
 being monitored by
   neuro as part of cardiac arrest cooling protocol. CT head negative for
   acute process.  Guarded but unclear prognosis at this time.  MRI -
   Diffuse cerebral anoxic injury. No longer in status epilepticus; EEG
   leads removed this AM.
   - ask neuro about prognosis
 family meeting today hopefully with
   prognostic information
   - f/u neuro recs
   - continue fosphenytoin, depakote, dilantin (propofol weaned off thus
   far; restart per neuro as needed)
   .
   # ?Aspiration PNA vs. Pneumonitis:  CT chest showed LUL and LLL
   findings consistent with atelectasis vs. PNA, also with leukocytosis
   (downtrending again today) and was febrile yesterday. On vancomycin (at
   increased dose now), levaquin, clindamycin regimen.
   - Continue vancomycin, levofloxacin, clindamycin
   - Trend leukocytosis (still rising WBC), fever curve
   - CIS
   - f/u pending cultures/micro
   .
   # Coagulopathy
 PT, PTT, INR no longer elevated following vit K
   administration. DIC labs negative. Now INR below therapeutic range, so
   patient on heparin gtt (for afib history). Hct stable today. Still with
   GI bleed concern d/t gastroccult positive OG tube secretions.
   - Follow Hct, will call GI if Hct unstable
   - Cont. [**Hospital1 **] PPI IV
   - Follow skin bruising clinically
   .
   # CORONARIES: no evidence of ischemia on ECG. Elevated trop and CK most
   likely from cardiac arrest and CPR. S/p RCA DES in [**2161-7-22**].  TTE this
   morning did not show inferior wall hypokinesis, unlikely ischemic event
   which triggered V fib arrest.
   - Continue ASA, clopidogrel.
   .
   # PUMP: BP stable with SBP in 90s to 140s; no longer on Levophed (off
   since the [**11-6**]). EF >55% in [**2161-7-22**].  Does not appear volume
   overloaded, though difficult to assess. Now has central access in case
   patient needs pressors, especially since on propofol (now d/c
d) the
   patient
s BP has been running lower. Currently off of pressors. Was
   -850mL yesterday. Edema (ie: upper extremities).
   -Goal: -500cc negative today
   -40mg IV lasix now
   .
   # RHYTHM: h/o afib, was initially in V fib then asystole, unclear
   precipitant. s/p arctic sun cooling protocol. Now in slow junctional
   rhythm in 40s/50s on telemetry (but [**First Name9 (NamePattern2) 6645**] [**Location (un) 103**] as 110
s) this
   morning. Had episodes of increasing PR interval overnight;
   hemodynamically stable during this.
   - on heparin gtt for h/o afib as INR infratherapeutic today (1.7)
   coumadin being held for now given bleed/bruise concerns (and prior INR
   of 9 in the setting of antibiotics and antiepileptics), prefer the
   closer titration of the heparin gtt
   - monitor on telemetry
   .
   # Hypertension: BP in 150s o/n
   - monitor
   - consider hydralizine (5mg IV) if BP elevates more
   .
   # Anemia: stable, concern for UGI bleed given coffee ground aspirate
   from OG tube, however minimal output at this time.
   -follow Hct daily
   -proton pump inhibitor [**Hospital1 **] IV
   .
   # Rash: dependent rash on upper back, ?dependent hematoma [**2-23**] rib
   fracture ? petechial, d/t chest compressions trauma
   - monitor clinically
   .
   # Hypothyroidism:
   - continue levothyroxine at home dose; do not change dose even with low
   TSH, given stressed state currently
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2161-11-10**] 10:00 PM 30 mL/hour
   Electrolytes: Repleted this AM, continue to replete PRN.
   Glycemic Control:  Insulin SS
   Lines:
   Arterial Line - [**2161-11-6**] 06:37 PM
   Multi Lumen - [**2161-11-7**] 10:48 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: IV bid PPI
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: with family (brother). Plan for family
   meeting today with neuro, cardiac arrest team member, cardiology,
   patient
s brother.
   [**Name (NI) 129**] status: Full code
   Disposition: CCU

2161-11-12 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  cardiac arrest
   HPI:
   -Family meeting tomorrow 3:30pm
   -Lasix 40mg IV x1 after rounds, negative ~300cc
   -neuro recs EP testing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2161-11-11**] 11:59 AM
   Clindamycin - [**2161-11-12**] 02:00 AM
   Vancomycin - [**2161-11-12**] 05:53 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-11-11**] 08:29 AM
   Furosemide (Lasix) - [**2161-11-11**] 09:30 AM
   Fosphenytoin - [**2161-11-11**] 06:01 PM
   Other medications:
   Flowsheet Data as of [**2161-11-12**] 07:11 AM
   Vital Signs
   Hemodynamic monitoring
   Fluid Balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 70 (47 - 87) bpm
   BP: 164/57(89) {120/43(65) - 178/75(107)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  2,988 mL
                                                                  1,108 mL
   PO:
             TF:
                                                                    760 mL
                                                                    301 mL
   IVF:
                                                                  2,107 mL
                                                                    807 mL
   Blood products:
   Total out:
                                                                  2,635 mL
                                                                    240 mL
   Urine:
                                                                  2,635 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    353 mL
                                                                    869 mL
   Respiratory
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 289 (289 - 497) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.50/38/89.[**Numeric Identifier 433**]/27/5
   Ve: 7.8 L/min
   PaO2 / FiO2: 223
   Physical Examination
   GEN; NAD, intubated, no longer with EEG leads on head, obese
   CV: RRR, no m/r/g
   PULM: CTAB, ventilated
   ABD: soft, nt, nd
   EXTR: edema of hands (L>R), but not feet
   Labs / Radiology
   297 K/uL
   11.4 g/dL
   126 mg/dL
   0.7 mg/dL
   25 mg/dL
   27 mEq/L
   106 mEq/L
   4.2 mEq/L
   142 mEq/L
   32.8 %
   14.0 K/uL
                                  [**2158-1-23**]
                         2:33 A10/20/[**2161**]  04:57 AM
                                  [**2158-1-27**]
                         10:20 P10/20/[**2161**]  06:41 PM
                                  [**2158-1-28**]
                         1:20 P10/20/[**2161**]  10:21 PM
                                  [**2158-1-29**]
                         11:50 P10/20/[**2161**]  11:56 PM
                                  [**2158-1-30**]
                         1:20 A10/21/[**2161**]  03:46 AM
                                  [**2158-1-31**]
                         7:20 P10/21/[**2161**]  05:37 AM
                                  1//11/006
                         1:23 P10/21/[**2161**]  06:15 AM
                                  [**2158-2-23**]
                         1:20 P10/21/[**2161**]  01:49 PM
                                  [**2158-2-23**]
                         11:20 P10/22/[**2161**]  04:47 AM
                                  [**2158-2-23**]
                         4:20 P10/22/[**2161**]  05:50 AM
   WBC
                                    12.4
                                    14.0
   Hct
                                    31.7
                                    32.8
   Plt
                                     277
                                     297
   Cr
                                     0.6
                                     0.7
   TC02
                                     23
                                     26
                                     27
                                     30
                                     28
                                     28
                                     30
                                     31
   Glucose
                                     130
                                     126
   Other labs: PT / PTT / INR:17.9/70.9/1.6, ALT / AST:46/127, Alk Phos /
   T Bili:64/0.3, Differential-Neuts:87.5 %, Lymph:6.9 %, Mono:5.1 %,
   Eos:0.1 %, D-dimer:469 ng/mL, Fibrinogen:526 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:3.3 g/dL, LDH:614 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   53-year-old woman with history of atrial fibrillation/flutter presented
   after v-fib arrest.
   .
   # Cardiac arrest: unclear precipitant for initial v-fib. Might have
   been atrial arrhythmias degenerating into v-fib, or a pulmonary process
   (aspiration; no evidence of PE) leading to cardiac arrest. No evidence
   of ischemia. Now intubated. Patient now in junctional rhythm (telemetry
   [**Location (un) 103**] as 110, true rate is half of that, ~55).  s/p arctic sun
   protocol.
   - continue amiodarone 400mg po bid
   - continue ventilatory support
   - telemetry
   .
   # Seizure: Patient with seizure activity on EEG
 being monitored by
   neuro as part of cardiac arrest cooling protocol. CT head negative for
   acute process.  Guarded but unclear prognosis at this time.  MRI -
   Diffuse cerebral anoxic injury. No longer in status epilepticus; EEG
   leads removed this AM.
   - ask neuro about prognosis
 family meeting today hopefully with
   prognostic information
   - f/u neuro recs
   - continue fosphenytoin, depakote, dilantin (propofol weaned off thus
   far; restart per neuro as needed)
   .
   # ?Aspiration PNA vs. Pneumonitis:  CT chest showed LUL and LLL
   findings consistent with atelectasis vs. PNA, also with leukocytosis
   (downtrending again today) and was febrile yesterday. On vancomycin (at
   increased dose now), levaquin, clindamycin regimen.
   - Continue vancomycin, levofloxacin, clindamycin
   - Trend leukocytosis (still rising WBC), fever curve
   - CIS
   - f/u pending cultures/micro
   .
   # Coagulopathy
 PT, PTT, INR no longer elevated following vit K
   administration. DIC labs negative. Now INR below therapeutic range, so
   patient on heparin gtt (for afib history). Hct stable today. Still with
   GI bleed concern d/t gastroccult positive OG tube secretions.
   - Follow Hct, will call GI if Hct unstable
   - Cont. [**Hospital1 **] PPI IV
   - Follow skin bruising clinically
   .
   # CORONARIES: no evidence of ischemia on ECG. Elevated trop and CK most
   likely from cardiac arrest and CPR. S/p RCA DES in [**2161-7-22**].  TTE this
   morning did not show inferior wall hypokinesis, unlikely ischemic event
   which triggered V fib arrest.
   - Continue ASA, clopidogrel.
   .
   # PUMP: BP stable with SBP in 90s to 140s; no longer on Levophed (off
   since the [**11-6**]). EF >55% in [**2161-7-22**].  Does not appear volume
   overloaded, though difficult to assess. Now has central access in case
   patient needs pressors, especially since on propofol (now d/c
d) the
   patient
s BP has been running lower. Currently off of pressors. Was
   -850mL yesterday. Edema (ie: upper extremities).
   -Goal: -500cc negative today
   -40mg IV lasix now
   .
   # RHYTHM: h/o afib, was initially in V fib then asystole, unclear
   precipitant. s/p arctic sun cooling protocol. Now in slow junctional
   rhythm in 40s/50s on telemetry (but [**First Name9 (NamePattern2) 6645**] [**Location (un) 103**] as 110
s) this
   morning. Had episodes of increasing PR interval overnight;
   hemodynamically stable during this.
   - on heparin gtt for h/o afib as INR infratherapeutic today (1.7)
   coumadin being held for now given bleed/bruise concerns (and prior INR
   of 9 in the setting of antibiotics and antiepileptics), prefer the
   closer titration of the heparin gtt
   - monitor on telemetry
   .
   # Hypertension: BP in 150s o/n
   - monitor
   - consider hydralizine (5mg IV) if BP elevates more
   .
   # Anemia: stable, concern for UGI bleed given coffee ground aspirate
   from OG tube, however minimal output at this time.
   -follow Hct daily
   -proton pump inhibitor [**Hospital1 **] IV
   .
   # Rash: dependent rash on upper back, ?dependent hematoma [**2-23**] rib
   fracture ? petechial, d/t chest compressions trauma
   - monitor clinically
   .
   # Hypothyroidism:
   - continue levothyroxine at home dose; do not change dose even with low
   TSH, given stressed state currently
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2161-11-12**] 04:05 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-11-6**] 06:37 PM
   Multi Lumen - [**2161-11-7**] 10:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-11-13 08:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2161-11-12**] 08:49 AM
 FEVER - 101.4
F - [**2161-11-13**] 06:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-11-12**] 05:53 AM
   Levofloxacin - [**2161-11-12**] 09:25 AM
   Clindamycin - [**2161-11-12**] 10:40 AM
   Infusions:
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-11-12**] 08:17 AM
   Furosemide (Lasix) - [**2161-11-12**] 10:34 AM
   Morphine Sulfate - [**2161-11-12**] 04:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-13**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 97 (58 - 97) bpm
   BP: 156/54(80) {134/48(71) - 190/70(110)} mmHg
   RR: 23 (12 - 24) insp/min
   SpO2: 81%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,105 mL
                                                                     41 mL
   PO:
             TF:
                                                                    478 mL
   IVF:
                                                                  1,508 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  3,440 mL
                                                                    195 mL
   Urine:
                                                                  3,440 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,335 mL
                                                                   -154 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 365 (162 - 365) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 12 cmH2O
   SpO2: 81%
   ABG: ////
   Ve: 8.6 L/min
   Physical Examination
   Labs / Radiology
   297 K/uL
   11.4 g/dL
   126 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   25 mg/dL
   106 mEq/L
   142 mEq/L
   32.8 %
   14.0 K/uL
        [image002.jpg]
                            [**2161-11-10**]  04:57 AM
                            [**2161-11-10**]  06:41 PM
                            [**2161-11-10**]  10:21 PM
                            [**2161-11-10**]  11:56 PM
                            [**2161-11-11**]  03:46 AM
                            [**2161-11-11**]  05:37 AM
                            [**2161-11-11**]  06:15 AM
                            [**2161-11-11**]  01:49 PM
                            [**2161-11-12**]  04:47 AM
                            [**2161-11-12**]  05:50 AM
   WBC
   12.4
   14.0
   Hct
   31.7
   32.8
   Plt
   277
   297
   Cr
   0.6
   0.7
   TCO2
   23
   26
   27
   30
   28
   28
   30
   31
   Glucose
   130
   126
   Other labs: PT / PTT / INR:17.9/70.9/1.6, ALT / AST:46/127, Alk Phos /
   T Bili:64/0.3, Differential-Neuts:87.5 %, Lymph:6.9 %, Mono:5.1 %,
   Eos:0.1 %, D-dimer:469 ng/mL, Fibrinogen:526 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:3.3 g/dL, LDH:614 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-11-6**] 06:37 PM
   Multi Lumen - [**2161-11-7**] 10:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: